US09227978B2
tert-Butyl 4-(2-bromoethyl)piperazine-1-carboxylate
A mixture of tert-butyl piperazine-1-carboxylate (5.0 g, 26.9 mmol), 1,2-dibromoethane (25 mL), DIPEA (3.5 g, 26.9 mmol) was stirred at 30° C. under argon for 72 h. The solvent was removed under reduced pressure and the residue was purified by column chromatography on silica gel (1-2% methanol/dichloroethane) to afford the desired product (2.8 g, 36% yield) as a solid. ESI-MS m/z: 293.1[M+1]+.

reactant | tert-butyl piperazine-1-carboxylate | 26.9 mmol, 5.0 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 1,2-dibromoethane | 25 mL | BrCCBr | C2H4Br2
reactant | DIPEA | 26.9 mmol, 3.5 g | CCN(C(C)C)C(C)C | C8H19N
product | tert-Butyl 4-(2-bromoethyl)piperazine-1-carboxylate | 2.8 g, 36% yield | BrCCN1CCN(CC1)C(=O)OC(C)(C)C | C11H21BrN2O2
